US06627651B1
To N-(4-nitrobenzyl)-N′,N″-bis(tert-butoxycarbonyl)guanidine (1.97 g, 4.99 mmol) dissolved in a mixed solvent of THF (25 ml) and methanol (25 ml) were added at 0° C. nickel bromide (109 mg, 0.50 mmol) and sodium borohydride (757 mg, 20.0 mmol) in the order, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was mixed with 1 N hydrochloric acid (40 ml) at 0° C., and the resulting mixture was stirred at the same temperature for 5 minutes. The resulting mixture was adjusted to about pH 8 by adding an aqueous saturated solution of sodium bicarbonate and was extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate and was then concentrated under reduced pressure, diisopropyl ether was added to the residue, and an insoluble material was collected by filtration. The insoluble material was washed with diisopropyl ether and was then dried under reduced pressure to obtain 4-[N′,N″-bis(tert-butoxycarbonyl)guanidinomethyl]aniline (1.21 g, 3.32 mmol, 66%).

reactant | N-(4-nitrobenzyl)-N′,N″-bis(tert-butoxycarbonyl)guanidine | 4.99 mmol, 1.97 g | [N+](=O)([O-])C1=CC=C(CNC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C=C1 | C18H26N4O6
reactant | sodium borohydride | 20.0 mmol, 757 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N, 40 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
catalyst | nickel bromide | 0.50 mmol, 109 mg | [Ni](Br)Br
product | 4-[N′,N″-bis(tert-butoxycarbonyl)guanidinomethyl]aniline | 3.32 mmol, 1.21 g, 66% | C(C)(C)(C)OC(=O)N=C(NCC1=CC=C(N)C=C1)NC(=O)OC(C)(C)C | C18H28N4O4
